US07476684B2
4-(5-{(1R)-1-[5-(3chlorophenyl)isoxazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine hydrochloride
The salt manufactured at 1 g scale from ethanol was further investigated for its intrinsic dissolution rate and compared to the free base of 4-(5-{(1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine. The salt had a 1000 times higher intrinsic dissolution rate as compared to the free base. Dissolution rates of the base and salt were measured with a low-volume rotating disc method. Discs were compressed from pure compound and centrically mounted in a disc holder with an exposed area of 0.07 cm2. The disc holder rotated at 500 rpm immersed in 50 mL USP Phosphate buffer pH 6.8 at 37° C. The compound was analyzed UV-Online by a Spectrophotometer with a flow cell and a peristaltic pump with continuous circulation.

reactant | 4-(5-{(1R)-1-[5-(3-chlorophenyl)isoxazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | ClC=1C=C(C=CC1)C1=CC(=NO1)[C@@H](C)OC=1N(C(=NN1)C1=CC=NC=C1)C | C19H16ClN5O2
reactant | Phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
solvent | ethanol | C(C)O | C2H6O
product | 4-(5-{(1R)-1-[5-(3chlorophenyl)isoxazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine hydrochloride | Cl.ClC=1C=C(C=CC1)C1=CC(=NO1)[C@@H](C)OC=1N(C(=NN1)C1=CC=NC=C1)C | InChI=1S/C19H16ClN5O2.ClH/c1-12(16-11-17(27-24-16)14-4-3-5-15(20)10-14)26-19-23-22-18(25(19)2)13-6-8-21-9-7-13;/h3-12H,1-2H3;1H/t12-;/m1./s1
